US08008487B2
Preparation of 1-(1-isopropyl-1H-pyrrol-3-yl)ethanone (Compound 164)
Potassium t-butoxide (6.7 g, 60 mmol) was added to a stirred 0° C. solution of 1-(1H-pyrrol-3-yl)ethanone (5.0 g, 46 mmol) of DMF (150 mL). After stirring for 30 minutes, 2-iodopropane (10.1 g, 60 mmol) was added and the mixture was stirred overnight at approximately 25° C. The mixture was diluted with Et2O and H2O. The portions were separated, and the aqueous portion was extracted two more times. The organic portions were combined and washed with brine and then dried with Na2SO4. The mixture was filtered and the solvent removed in vacuo. The crude product was purified by flash chromatography (30 percent ether/pentane over silica gel), affording 3.9 g of yellow oil.

reactant | Potassium t-butoxide | 60 mmol, 6.7 g | CC(C)([O-])C.[K+]
reactant | 1-(1H-pyrrol-3-yl)ethanone | 46 mmol, 5.0 g | N1C=C(C=C1)C(C)=O | C6H7NO
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | 2-iodopropane | 60 mmol, 10.1 g | IC(C)C | C3H7I
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 1-(1-isopropyl-1H-pyrrol-3-yl)ethanone | 3.9 g | C(C)(C)N1C=C(C=C1)C(C)=O | C9H13NO
